US06159904
A 100-ml round-bottomed flask was charged with 1.18 g (4.50 mmol) of 6-acetyl-3,3,5,8-tetramethylthiochroman-4-one, 2 ml of acetic acid and 1.12 g (9.88 mmol) of a 30 wt % hydrogen peroxide aqueous solution, and the mixture was allowed to react at 80° C. for 2 and half hours. The reaction mixture was diluted with about 30 ml of water, and a sodium hydrogensulfite aqueous solution was added to decompose excess peroxide. Then, the mixture was extracted with ethyl acetate. An organic layer was washed with a saturated sodium hydrogencarbonate aqueous solution and with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to give 1.28 g (yield 97%) of 6-acetyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide.

reactant | 6-acetyl-3,3,5,8-tetramethylthiochroman-4-one | 4.50 mmol, 1.18 g | C(C)(=O)C=1C(=C2C(C(CSC2=C(C1)C)(C)C)=O)C | C15H18O2S
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | water | about 30 ml | O | H2O
product | 6-acetyl-3,3,5,8-tetramethylthiochroman-4-one-1,1-dioxide | 1.28 g, yield 97% | C(C)(=O)C=1C(=C2C(C(CS(C2=C(C1)C)(=O)=O)(C)C)=O)C | C15H18O4S
